US08471005B2
2-(4-{4-[7-(3-Isopropoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-phenyl}-piperidin-1-yl)-acetamide
7-(3-Isopropoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ol (100 mg, 0.4 mmol), N-Phenylbis(trifluoromethanesulphonimide) (146 mg, 0.408 mmol), N,N-Diisopropylethylamine (0.194 mL, 1.11 mmol), and N,N-Dimethylformamide (3 mL, 40 mmol) and stir at room temperature for half an hour. Add 2-[4-(4-Amino-phenyl)-piperidin-1-yl]-acetamide (139 mg, 0.594 mmol) and stir at 60° C. overnight. The reaction was concentrated, DMSO added, filtered and placed onto the Gilson for purification. The most pure fractions were basified with saturated sodium bicarbonate, extracted with ethyl acetate, dried, filtered and collected as a yellow solid (47 mg, 30%). MP 233-235° C. LCMS (E/I+) 485 (M+H). NMR 1H (DMSO-d6)-9.43 (s, 1H), 8.97 (s, 1H), 7.82 (s, 1H), 7.73 (d, 2H, J=8.04 Hz), 7.66 (d, 1H, J=7.72 Hz), 7.43 (t, 1H, J=7.80 Hz), 7.14-7.22 (m, 5H), 6.98 (d, 1H, J=8.17 Hz), 6.94 (d, 1H, J=4.50 Hz), 4.70-4.75 (m, 1H), 2.87-2.95 (m, 4H), 2.40-2.46 (m, 1H), 2.10-2.22 (m, 2H), 1.70-1.76 (m, 4H), 1.31 (d, 6H, J=5.79 Hz).

reactant | 7-(3-Isopropoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ol | 0.4 mmol, 100 mg | C(C)(C)OC=1C=C(C=CC1)C1=CC=C2C=NC(=NN21)O | C15H15N3O2
reactant | N-Phenylbis(trifluoromethanesulphonimide) | 0.408 mmol, 146 mg | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | N,N-Diisopropylethylamine | 1.11 mmol, 0.194 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N,N-Dimethylformamide | 40 mmol, 3 mL | CN(C=O)C | C3H7NO
reactant | 2-[4-(4-Amino-phenyl)-piperidin-1-yl]-acetamide | 0.594 mmol, 139 mg | NC1=CC=C(C=C1)C1CCN(CC1)CC(=O)N | C13H19N3O
product | 2-(4-{4-[7-(3-Isopropoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-phenyl}-piperidin-1-yl)-acetamide | C(C)(C)OC=1C=C(C=CC1)C1=CC=C2C=NC(=NN21)NC2=CC=C(C=C2)C2CCN(CC2)CC(=O)N | C28H32N6O2
